US06124285
N,4,5-trimethyl-3-isoxazolone
To a solution of 3-hydroxy-4,5-dimethylisoxazole (7 g, 62 mmol) in ether (50 mL) was added diazomethane until a persistent yellow colour was obtained. The reaction was stirred for another 30 min at room temperature. The ether was evaporated off and the residue purified by column chromatography on silica gel using ether as eluent. 4 g of the desired material was obtained.

reactant | 3-hydroxy-4,5-dimethylisoxazole | 62 mmol, 7 g | OC1=NOC(=C1C)C | C5H7NO2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ether | 50 mL | CCOCC | C4H10O
product | N,4,5-trimethyl-3-isoxazolone | 4 g | CN1OC(=C(C1=O)C)C | C6H9NO2
